US09388161B2
A 30-mL glass-lined stainless steel reactor with a magnetic stirring bar was charged with 5-methoxy-2-methylquinoline (4.0 g, 23.1 mmol), Ru(OTf)(η6-hexamethylbenzene)((S,S)-TsDPEN)([N-[(1S,2S)-2-(amino-κN)-1,2-diphenylethyl]-4-methylbenzenesulfonamidato-κN][(1,2,3,4,5,6-η)-1,2,3,4,5,6-hexamethylbenzene](1,1,1-trifluoromethanesulfonato-κO)-ruthenium, prepared according to the procedure in J. Am. Chem. Soc. 2011, 133, 9878-9891) (0.100 g, 0.13 mmol) and methanol (10 mL). The reactor was closed and hydrogen gas was initially introduced in at a pressure of 50 atm, before being reduced to 1 atm. After this procedure was repeated three times, the reactor was pressurized with hydrogen to 50 atm. The resulting mixture was stirred under this hydrogen pressure for 24 h at room temperature. After carefully releasing the hydrogen, the reaction mixture was concentrated under vacuum. The residue was purified via column chromatography on silica gel (gradient elution with 0-20% ethyl acetate/petroleum ether) to afford (2S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline (4.0 g, 98%, >99% ee) as yellow oil. MS (ES, m/z): 178 [M+H]+

reactant | 5-methoxy-2-methylquinoline | 23.1 mmol, 4.0 g | COC1=C2C=CC(=NC2=CC=C1)C | C11H11NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
product | (2S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline | 4.0 g, 98% | COC1=C2CC[C@@H](NC2=CC=C1)C | C11H15NO
